US04707478
1-(Propylcarbamoyl)-3-(2-pyridylmethyl)guanidine dihydrochloride
1-(2-Pyridylmethyl)guanidine sulfate (13.15 g) and 10 ml of CHCl3 are added to a vigorously stirred solution of 50% aqueous NaOH (5.2 g) and THF (15 ml). The mixture is stirred at RT for 2 hours. A 5 gram portion of solid anhydrous Na2SO4 is added and the mixture is stirred at room temperature for an additional hour. 100 ml of CHCl3 and 50 ml of CH3CN are added to the vigorously stirred mixture followed by an additional 5 g portion of Na2SO4. A solution of N-propyl isocyanate (5.11 g) and 75 ml of THF is added dropwise to the mixture and stirred at RT overnight. The solvent is evaporated in vacuo and the dark residue is mixed with 200 ml of CHCl3, 100 ml of saturated aqueous sodium chloride and 50 ml of water. The organic layer is separated and the aqueous layer is washed with an additional 200 ml portion of CHCl3. The organic phases are combined, washed with 70 ml of aqueous sodium chloride containing 5 ml of 50% aqueous NaOH, dried, filtered and concentrated in vacuo. The concentrate is acidified with ethereal HCl and evaporated to dryness under reduced pressure. The residue is taken up in boiling methanol, treated with Darco G-60 and filtered. The filtrate is concentrated to approximately 200 ml on a hotplate and diluted with approximately 200 ml of acetonitrile with continued heating. The hot solution is allowed to cool and the resultant precipitate collected, washed with acetonitrile and absolute ethanol. The solid is suspended in 200 ml of warm absolute ethanol, filtered while hot and dried in vacuo at 55° C. overnight to give 6.90 g of a blue white solid, MP 216°-218° w/dec.

reactant | 1-(2-Pyridylmethyl)guanidine sulfate | 13.15 g | S(=O)(=O)(O)O.N1=C(C=CC=C1)CNC(=N)N
reactant | NaOH | 5.2 g | [OH-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | CH3CN | 50 ml | CC#N | C2H3N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(Propylcarbamoyl)-3-(2-pyridylmethyl)guanidine dihydrochloride | 6.90 g | Cl.Cl.C(CC)NC(=O)NC(=N)NCC1=NC=CC=C1 | InChI=1S/C11H17N5O.2ClH/c1-2-6-14-11(17)16-10(12)15-8-9-5-3-4-7-13-9;;/h3-5,7H,2,6,8H2,1H3,(H4,12,14,15,16,17);2*1H
